Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4],3.86031455672
[H:1][C:2]#[C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10][H:11],1.29505203534
[C:1][O:2][C:3][C:4]([H:5])=[C:6]=[O:7]>>[C:1].[O:2]=[C:3][C:4]([H:5])=[C:6]=[O:7],2.46758957629
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],5.19350983426
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9],2.30977585316
[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5](=[O:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.71968098882
[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.92271929105
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],3.70428972648
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[H:9],4.57232325545
[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7](=[C:8])[H:9]>>[C:1]#[C:2][C:4]([O:5][H:6])[C:7](=[C:8])[H:9].[H:3],2.28172426
[H:4].[O:1][O:2][C:3][C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-4.44615436448
[C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.67835264529
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.9001638945
[C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.64953778842
[H:17].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.532838633530001
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-3.223732642
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7],1.0942982883
[H:1][C:2]([H:3])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.05317257166
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[C:9][O:10][H:11]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][O:10][H:11],-3.96844209489
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.90849466057
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.73941209852
[H:1][C:2][O:3][C:4]([H:5])[O:7][C:8]#[C:9][H:10].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],-4.34148061405
[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:8]([C:5]([H:6])[H:7])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],0.3429553822599999
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[C@:5]([O:6][H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.45622290343
[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-3.06698774948
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8],7.46256759979
[H:1][O:2][C:3]/[C:4](=[C:5]\[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][O:6][H:7],1.85235795076
[C:2]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:4]=[O:3]>>[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],0.154197697269
